US08022062B2
In a sealed tube, add tris(dibenzylideneacetone)dipalladium (13 mg, 0.014 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (19 mg, 0.029 mmol) to a mixture of 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine (957 mg, 1.91 mmol), sodium tert-butoxide (367 mg, 3.83 mmol), 18-crown-6 (50 mg, 0.191 mmol) and piperidine (944 μl, 9.57 mmol) in toluene (10 mL). Flush the mixture with nitrogen and heat overnight. Cool to ambient temperature, dilute with water and extract three times with EtOAc. Dry over anhydrous Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (9:1) to give 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-piperidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil (511 mg, 33%). Use a method similar to the General Procedure 1-4 to give the title compound as a white solid. MS (ES+) m/z: 405 (M+H)+.

reactant | 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.91 mmol, 957 mg | BrC1=C(C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1)F | C22H24BrClFNO2S
reactant | sodium tert-butoxide | 3.83 mmol, 367 mg | CC(C)([O-])C.[Na+]
reactant | 18-crown-6 | 0.191 mmol, 50 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | piperidine | 9.57 mmol, 944 μl | N1CCCCC1 | C5H11N
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.014 mmol, 13 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.029 mmol, 19 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 3-tert-butoxycarbonyl-7-chloro-6-(3-fluoro-4-piperidin-1-yl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 511 mg, 33% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SCC2=CC(=C(C=C2)N2CCCCC2)F | C27H34ClFN2O2S
